US08022222B2
Using the method of Example 3, Step A, pyridin-3-ol (0.450 g, 4.73 mmol), 60% sodium hydride in mineral oil (189 mg, 4.73 mmol), and 2-chloro-4-nitropyridine (0.750 g, 4.73 mmol) were reacted to provide 2-chloro-4-(pyridin-3-yloxy)pyridine (0.938 g, 96% yield) as a clear oil. 1H NMR (CDCl3) δ 8.57 (d, 1H), 8.49 (d, 1H), 8.28 (d, 1H), 7.39-7.48 (m, 2H), 6.86 (s, 1H), 6.82 (d, 1H).

reactant | pyridin-3-ol | 4.73 mmol, 0.450 g | N1=CC(=CC=C1)O | C5H5NO
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-4-nitropyridine | 4.73 mmol, 0.750 g | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
product | 2-chloro-4-(pyridin-3-yloxy)pyridine | 0.938 g, 96% yield | ClC1=NC=CC(=C1)OC=1C=NC=CC1 | C10H7ClN2O
